US07034015B2
Preparation 40: 2-Bromobenzyl (triisopropyl)silyl ether (Compound 440)
To a solution of o-bromobenzyl alcohol (2.55 g, 13.6 mmol) and imidazole (1.36 g, 20 mmol) in CH2Cl2 (20 ml) was added triisopropylsilyl chloride (2.6 ml, 12 mmol) at RT. The obtained mixture was stirred at the same temperature for 1 h and then taken up to H2O. After phase separation, the aqueous phase was extracted twice with petroleum ether. The combined organic phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by filtration through a short column of silica gel to give the title compound as a colorless liquid.

reactant | o-bromobenzyl alcohol | 13.6 mmol, 2.55 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | imidazole | 20 mmol, 1.36 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 12 mmol, 2.6 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | H2O | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromobenzyl (triisopropyl)silyl ether | C(C)(C)[Si](C(C)C)(C(C)C)OCC1=C(C=CC=C1)Br | C16H27BrOSi
